US07666879B2
5-(1-Methyl-cyclopropyl)-[1,3,4]thiadiazol-2-ylamine
Combine 1-methylcyclopropane-1-carboxylic acid (10.00 g, 99.88 mmol), and thiosemicarbazide (9.10 g, 99.88 mmol) in dioxane (110 mL). Heat the mixture to 90° C. under N2, then add phosphorus(III) oxychloride (9.14 mL, 99.88 mmol) dropwise over 25 minutes. The reaction mixture is stirred for 6 hours at 90° C., then 8 hours at room temperature. Decant onto 200 g ice and add ammonium hydroxide to make basic. Filter to remove solids; the filtrate is extracted with ethyl acetate. The organic layer is washed with water. Dry the resulting organics over magnesium sulfate, filter, and concentrate to give product (2.54 g, 16%). MS (ES), m/z 156 (M+1).

reactant | 1-methylcyclopropane-1-carboxylic acid | 99.88 mmol, 10.00 g | CC1(CC1)C(=O)O | C5H8O2
reactant | thiosemicarbazide | 99.88 mmol, 9.10 g | NNC(=S)N | CH5N3S
reactant | phosphorus(III) oxychloride | 99.88 mmol, 9.14 mL | O(Cl)Cl.[P+3]
solvent | dioxane | 110 mL | O1CCOCC1 | C4H8O2
product | 5-(1-Methyl-cyclopropyl)-[1,3,4]thiadiazol-2-ylamine | 2.54 g, 16% | CC1(CC1)C1=NN=C(S1)N | C6H9N3S
